US04814110
To a 50 ml round bottom flask was added catechol (Aldrich, 3.3 g, 30 mmols), octanoic anhydride (5.4 gms, 20 mmols) and 5 mls of ethyl ether. After all the catechol was dissolved, one drop of methane sulfonic acid was added and the solution stirred for two hours at room temperature. 30 mls of petroleum ether was then added and the unreacted catechol was crystallized at 5°-10° C. for one hour. Greater than 95% of the unreacted catechol was recovered. After filtration, the organic solution was washed three times with 50 mls of 5% NaHCO3 and the catechol monooctanoate (4.4 g) was isolated in 90-95 wt. % yield after rotary vacuum evaporation of the solvents.

reactant | catechol | 30 mmols, 3.3 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | octanoic anhydride | 20 mmols, 5.4 gms | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
catalyst | methane sulfonic acid | one drop | CS(=O)(=O)O | CH4O3S
solvent | ethyl ether | 5 mls | C(C)OCC | C4H10O
product | catechol monooctanoate | 4.4 g, yield of 82.5% | C(CCCCCCC)(=O)OC=1C(O)=CC=CC1 | C14H20O3
